US07307076B2
a) 8-acetyl-5-benzyloxy-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one
28 g (0.15 mol) 2-bromo-2-methyl-propionyl chloride are added dropwise to 25.7 g (0.10 mol) 1-(3-amino-4-benzyloxy-2-hydroxy-phenyl)-ethanone and 41 g (0.30 mol) potassium carbonate in 215 mL acetonitrile. After 8 hours stirring at reflux temperature the solid is filtered off, the filtrate is evaporated down and the residue is crystallised from ethanol. Yield: 11.2 g (35%); melting range=124-126° C.

reactant | 2-bromo-2-methyl-propionyl chloride | 0.15 mol, 28 g | BrC(C(=O)Cl)(C)C | C4H6BrClO
reactant | 1-(3-amino-4-benzyloxy-2-hydroxy-phenyl)-ethanone | 0.10 mol, 25.7 g | NC=1C(=C(C=CC1OCC1=CC=CC=C1)C(C)=O)O | C15H15NO3
reactant | potassium carbonate | 0.30 mol, 41 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 215 mL | C(C)#N | C2H3N
product | 8-acetyl-5-benzyloxy-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one | C(C)(=O)C1=CC=C(C=2NC(C(OC21)(C)C)=O)OCC2=CC=CC=C2 | C19H19NO4
